US07141586B2
To a suspension of ethyl-2-chloro-5-fluoro-nicotinate (2.00 g, 9.82 mmol) and caesium carbonate (4.48 g, 13.8 mmol) in toluene/N-methylpyrrolidine (4:1, 50 ml) was added 4-methylsulfanylphenol (1.51 g, 10.8 mmol) at room temperature under nitrogen. Copper iodide (94 mg, 0.49 mmol) and the reaction was heated to 100° C. and stirred at this temperature for 17 h. The reaction was cooled to room temperature, partitioned between water (100 ml) and ethyl acetate (200 ml) and filtered. The filtrate was separated and the organic phase washed with brine (50 ml), dried over MgSO4 and concentrated under reduced pressure. The residue was purified by flash column chromatography on silica gel eluting with toluene:ethyl acetate (95:5, by volume) and the product was triturated with pentane (10 ml) to give 5-fluoro-2-(4-methylsulfanyl-phenoxy)-nicotinic acid ethyl ester (2.09 g) as a yellow oil.

reactant | ethyl-2-chloro-5-fluoro-nicotinate | 9.82 mmol, 2.00 g | C(C)OC(C1=C(N=CC(=C1)F)Cl)=O | C8H7ClFNO2
reactant | caesium carbonate | 13.8 mmol, 4.48 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-methylsulfanylphenol | 10.8 mmol, 1.51 g | CSC1=CC=C(C=C1)O | C7H8OS
solvent | toluene N-methylpyrrolidine | 50 ml | C1(=CC=CC=C1)C.CN1CCCC1
catalyst | Copper iodide | 0.49 mmol, 94 mg | [Cu](I)I
product | 5-fluoro-2-(4-methylsulfanyl-phenoxy)-nicotinic acid ethyl ester | 2.09 g | C(C)OC(C1=C(N=CC(=C1)F)OC1=CC=C(C=C1)SC)=O | C15H14FNO3S
